US05739351
76 cm3 of triethylmmine are added to a solution, cooled to +5° C., of 62 g of (R)-5-hydroxymethylcyclohex-2-en-1-one [prepared according to the method described by Kenji Mori et al., Tetrahedron, Vol. 48, No. 24, 8075-8082 (1990) incorporated herein by reference] in 600 cm3 of dry dichloromethane, and then 38.4 cm3 of acetyl chloride are run in over the course of 30 minutes. After stirring at +5° C. for one hour and at 20° C. for one hour, 1 liter of water is added slowly to the mixture. The separated organic phase is washed with 1 liter of water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). 80 g of (R)-5-acetoxymetylcyclohex-2-en-1-one are obtained in the form of an orange-coloured oil.

reactant | (R)-5-hydroxymethylcyclohex-2-en-1-one | 62 g | OC[C@@H]1CC=CC(C1)=O | C7H10O2
reactant | acetyl chloride | 38.4 cm3 | C(C)(=O)Cl | C2H3ClO
reactant | water | 1 liter | O | H2O
solvent | dichloromethane | 600 cm3 | ClCCl | CH2Cl2
product | (R)-5-acetoxymetylcyclohex-2-en-1-one | 80 g | C(C)(=O)OC[C@@H]1CC=CC(C1)=O | C9H12O3
